US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(pyridin-4-ylmethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of 4-methyl-2-(2-oxo-3-(pyridin-4-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid (0.67 g, 2.12 mmol) in anhydrous N,N-dimethyl formamide (10 mL) was added benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (0.94 g, 2.12 mmol), diisopropylethylamine (1.12 mL, 6.35 mmol) and 3-(aminomethyl)pyridine (0.22 mL, 2.12 mmol). The resulting solution was stirred at ambient temperature for 24 hours. The reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL), washed with saturated aqueous sodium bicarbonate solution (15 mL) and brine (15 mL). The separated organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 10-20% methanol in ethyl acetate as an eluent to afford the title compound as a colorless solid (10%, 0.092 g): mp 233-235° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.57-8.49 (m, 4H), 7.67 (d, J=7.7 Hz, 1H), 7.26-7.17 (m, 3H), 6.36 (br s, 1H), 4.56 (d, J=5.8 Hz, 2H), 4.45 (s, 2H), 4.12-4.07 (m, 2H), 3.50-3.45 (m, 2H), 2.58 (s, 3H); MS (ES+) m/z 409.2 (M+1).

reactant | 4-methyl-2-(2-oxo-3-(pyridin-4-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 2.12 mmol, 0.67 g | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=NC=C1)=O | C14H14N4O3S
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 2.12 mmol, 0.94 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 6.35 mmol, 1.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(aminomethyl)pyridine | 2.12 mmol, 0.22 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | N,N-dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-methyl-2-(2-oxo-3-(pyridin-4-ylmethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.092 g, 10% | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CC1=CC=NC=C1)=O | C20H20N6O2S
